US07479559B2
5-Bromo-2-(tetrahydro-pyran-4-yloxy)-pyridine
A solution of 2,5-dibromopyridine (9.5 g, 40 mmol) in N,N-dimethylformamide (100 mL) was treated with sodium hydride (60% dispersion in mineral oil, 2.4 g, 60 mmol). The mixture was cooled to 0° C. and 4-hydroxypyran (3.8 mL, 40 mmol) was added slowly. The resultant mixture was stirred at room temperature for 24 hours, then was added to dilute brine solution and was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, was filtered, and the solvent was removed in vacuo. The residue was purified by silica gel chromatography (40:1 hexanes-ethyl acetate) to afford 9.0 g (87% yield) of the title compound. 13C NMR (100 MHz, CDCl3) d 162.0, 147.6, 141.5, 113.5, 111.7, 70.3, 65.7, 32.1; MS (AP/Cl) 258.2, 260.2 (M+H)+.

reactant | 2,5-dibromopyridine | 40 mmol, 9.5 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | sodium hydride | 60 mmol, 2.4 g | [H-].[Na+]
reactant | 4-hydroxypyran | 40 mmol, 3.8 mL | OC1=CCOC=C1 | C5H6O2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 5-Bromo-2-(tetrahydro-pyran-4-yloxy)-pyridine | 9.0 g, 87% yield | BrC=1C=CC(=NC1)OC1CCOCC1 | C10H12BrNO2
